US04962103
trans-1-(p-Methoxybenzyloxycarbonyl)-4-hydroxy-L-proline methyl ester (5.18 g), 3.79 g of triethylamine and 3.77 g of t-butyldimethylsilyl chloride were dissolved in 52 ml of dry dimethylformamide. The resulting mixture was stirred at room temperature for 3 hours, diluted with water, extracted with ethyl acetate, washed successively with water, dilute hydrochloric acid and water, dried over anhydrous sodium sulfate and distilled to remove the solvent. The residue was purified by silica gel chromatography to obtain trans-1-(p-methoxybenzyloxycarbonyl)-4-t-butyldimethylsilyloxy-L-proline methyl ester.

reactant | trans-1-(p-Methoxybenzyloxycarbonyl)-4-hydroxy-L-proline methyl ester | 5.18 g | COC([C@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=C(C=C1)OC)=O | C15H19NO6
reactant | triethylamine | 3.79 g | C(C)N(CC)CC | C6H15N
reactant | t-butyldimethylsilyl chloride | 3.77 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dimethylformamide | 52 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | trans-1-(p-methoxybenzyloxycarbonyl)-4-t-butyldimethylsilyloxy-L-proline methyl ester | COC([C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC1=CC=C(C=C1)OC)=O | C21H33NO6Si
